US08030499B2
Step 10-1: Synthesis of tert-butyl (2S,4S)-2-(azetidin-1-ylcarbonyl)-4-hydroxypyrrolidine-1-carboxylate
To a solution of 2.50 g of (4S)-1-(tert-butoxy carbonyl)-4-hydroxy-L-proline in DMF (25 ml) was added 2.19 g of HOBt/H2O and 2.49 g of EDC/HCl under ice cooling, and the reaction mixture was stirred for 30 minutes. To the reaction mixture was added dropwise 1.23 g of trimethylene imine over 1 minute, then, the mixture was stirred at room temperature for 16 hours. To the reaction solution was added EtOAc and an aqueous solution of 5% K2CO3, and the resulting mixture was stirred for 30 minutes. Liquid separation of the stirred solution was performed, the aqueous layer was extracted with EtOAc, the combined organic layer was washed with water and with saturated brine, dried over MgSO4, then, the drying agent was separated by filtration, and the solution was concentrated under reduced pressure. The residue was purified by column chromatography (silicagel 60; mobile phase: EtOAc) to obtain 2.81 g of the title compound (pale yellow solid).

reactant | (4S)-1-(tert-butoxy carbonyl)-4-hydroxy-L-proline | 2.50 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)O)C[C@@H](C1)O | C10H17NO5
reactant | HOBt H2O | 2.19 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | EDC HCl | 2.49 g | C(CCl)Cl.Cl
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl (2S,4S)-2-(azetidin-1-ylcarbonyl)-4-hydroxypyrrolidine-1-carboxylate | 2.81 g | N1(CCC1)C(=O)[C@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C | C13H22N2O4
